US04197241
3-Ethyl-hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one
Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one (4.66 g) in dry toluene (25 ml) was added dropwise to a stirred suspension of sodium amide (1.0 g) in dry toluene (50 ml). The reaction mixture was heated to reflux, ammonia was evolved and the reaction mixture became red. After refluxing for 2 hours dry tetrahydrofuran (20 ml) was added, the mixture cooled and ethyl iodide (3.7 g) added. A white precipitate was formed and the red colour rapidly disappeared. The reaction mixture was heated under reflux for 2 hours, cooled and decomposed by the addition of water. The aqueous phase was separated and the organic layer washed with saturated sodium chloride solution, dried over anhydrous magnesium sulphate and evaporated affording an oil which crystallised from diisopropyl ether to give the title compound (3.29 g), m.p. 62°-64° C.

reactant | Hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | 4.66 g | COC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C14H19NO2
reactant | sodium amide | 1.0 g | [NH2-].[Na+]
reactant | ammonia | N | H3N
reactant | ethyl iodide | 3.7 g | C(C)I | C2H5I
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-Ethyl-hexahydro-3-(3-methoxyphenyl)-1-methyl-2H-azepin-2-one | 3.29 g | C(C)C1(C(N(CCCC1)C)=O)C1=CC(=CC=C1)OC | C16H23NO2
